US09260394B2
Preparation of 2-aminonicotinic acid N-oxide (I1):
1N sodium hydroxide (0.5 ml) was added to a solution of 2-aminonicotinic acid methyl ester N-oxide (80 mg, 0.48 mmol) in ethanol (5 ml) and the reaction mixture was stirred under reflux for 10 h. The solvent was evaporated under vacuum and the residue was taken up with water and extracted with methylene chloride. After addition of 1N hydrochloric acid to the aqueous solution, the resulting precipitate was filtered, rinsed with water and dried under vacuum, thus obtaining 2-aminonicotinic acid N-oxide (I1) as a white solid.

reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
reactant | 2-aminonicotinic acid methyl ester N-oxide | 0.48 mmol, 80 mg | COC(C1=C([N+](=CC=C1)[O-])N)=O | C7H8N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-aminonicotinic acid N-oxide | NC1=C(C(=O)O)C=CC=[N+]1[O-] | C6H6N2O3
